US08604029B2
N-[4-(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-phenyl]-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide
A solution of oxo-(2-phenyl-indolizin-3-yl)-acetyl chloride (0.12 g, 0.42 mmol) in THF was added to a solution of 4-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-phenylamine (70 mg, 0.31 mmol) and triethylamine (85 mg, 0.85 mmol) in THF (10 mL) at 0° C., then the mixture was stirred for 8 h at r.t. The mixture was concentrated to dryness and washed with water to give a crude product which was triturated with methanol to afford the title compound (70 mg, 48%) as a solid.

reactant | oxo-(2-phenyl-indolizin-3-yl)-acetyl chloride | 0.42 mmol, 0.12 g | O=C(C(=O)Cl)C1=C(C=C2C=CC=CN12)C1=CC=CC=C1 | C16H10ClNO2
reactant | 4-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-phenylamine | 0.31 mmol, 70 mg | O=S1(CCN(CC1)C1=CC=C(C=C1)N)=O | C10H14N2O2S
reactant | triethylamine | 0.85 mmol, 85 mg | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-[4-(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-phenyl]-2-oxo-2-(2-phenyl-indolizin-3-yl)-acetamide | 70 mg, 48% | O=S1(CCN(CC1)C1=CC=C(C=C1)NC(C(C1=C(C=C2C=CC=CN12)C1=CC=CC=C1)=O)=O)=O | C26H23N3O4S
